data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_222452_0,[C@:1]([C@:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:13])[H:14])[H:12])([C:3]([H:15])([H:16])[H:17])([N:5]([O:7][H:10])[O:8][H:9])[H:11]>>[C@@:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C@:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:13])[H:14])[H:12])[O:8][H:9])([O:7][H:10])[H:11],65.43256249998294
MR_49128_1,[C:1](/[C:3]([N:4]([H:9])[H:10])=[C:5](\[N:2]([C:6](=[C:7]([H:16])[H:17])[H:12])[H:8])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:3]([N:4]([H:9])[H:10])(/[C:5](=[N:2]/[H:8])[H:11])[C:6](=[C:7]([H:16])[H:17])[H:12])([H:13])([H:14])[H:15],71.73768250000819
MR_194898_0,[C:1](/[C:2](=[N:4]/[N:5]=[C:3]([H:7])[H:8])[H:6])([H:9])([H:10])[H:11]>>[C:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[N:5]=[N:4]1)([H:9])([H:10])[H:11],47.03677250000432
MR_511400_1,[C:1](/[C:3](=[C:7](/[C:6](=[C:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[H:14])[H:15])[O:8][H:9])([H:16])([H:17])[H:18]>>[C:1]([C@@:3]1([O:8][H:9])[C:2]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[C:6]([H:14])=[C:7]1[H:15])([H:16])([H:17])[H:18],56.29679000000621
MR_376025_0,[N:1]([N:2]([H:8])[H:9])([N:3]([H:7])[H:10])/[C:5](=[C:6](\[N:4]([H:11])[H:12])[H:14])[H:13]>>[N:1]1([N:3]([H:7])[H:10])[C@@:5]([N:2]([H:8])[H:9])([H:13])[C@:6]1([N:4]([H:11])[H:12])[H:14],59.28745499998172
MR_505028_2,[C@@:1]([N:4]([O:7][C:2]([H:14])([H:15])[H:16])[H:9])([C:5]([C:3]([H:17])([H:18])[H:19])[N:8][H:13])([N:6]([H:11])[H:12])[H:10]>>[C@@:1]([N:4](/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:8]\[H:13])[H:9])([N:6]([H:11])[H:12])([O:7][C:2]([H:14])([H:15])[H:16])[H:10],58.88961999998742
MR_635882_0,[C:1]([O:8][C:3]([O:7]/[C:4]([C:2]([H:16])([H:17])[H:18])=[C:6](\[N:5]([H:10])[H:11])[H:12])=[O:9])([H:13])([H:14])[H:15]>>[C:1]([O:8][C@@:6]([C@@:4]1([C:2]([H:16])([H:17])[H:18])[C:3](=[O:9])[O:7]1)([N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],65.96719249995289
MR_596753_0,[C:1](=[C:2]([N:3]([H:11])[H:12])[O:6][C:4](=[C:5]([H:14])[H:15])[H:13])([O:7][H:9])[O:8][H:10]>>[C:1]([C:2]([N:3]([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[O:6][H:9])(=[O:7])[O:8][H:10],49.41248749998081
MR_429578_0,[C:1](/[C:2]([N:4]([H:12])[H:13])=[N:7]/[H:14])([O:5][N:3]([H:10])[H:11])([O:6][H:8])[H:9]>>[C:1]([N:3]([H:10])[H:11])([O:5]/[C:2]([N:4]([H:12])[H:13])=[N:7]/[H:14])([O:6][H:8])[H:9],52.0046899999636
MR_563499_0,[C:1]1([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C@:2]([C:3]([H:13])([H:14])[H:15])([H:8])[O:7][O:6]1>>[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[O:6][O:7]1)([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[H:8],59.19019250001327
MR_105451_0,[C:1]([N:4]([C:3]([H:13])([H:14])[H:15])[O:5][C:2]([H:10])([H:11])[H:12])([O:6][H:7])([H:8])[H:9]>>[C:1]([N:4]([C:3]([H:13])([H:14])[H:15])[O:6][H:7])([O:5][C:2]([H:10])([H:11])[H:12])([H:8])[H:9],71.96797499999747
MR_416606_1,[C:1](/[C:5](=[C:3](/[C:2]([H:14])([H:15])[H:16])[N:4]([H:9])[H:10])[H:13])([O:6][O:7][H:8])([H:11])[H:12]>>[C:1](=[C:5]([C:3]([C:2]([H:14])([H:15])[H:16])([N:4]([H:9])[H:10])[O:6][O:7][H:8])[H:13])([H:11])[H:12],43.8672699999988
MR_262784_1,[C:1]1([N:4]([C:3]([H:14])([H:15])[H:16])[N:5]([H:10])[H:11])([H:8])[C:2]([N:6]([H:12])[H:13])([H:9])[O:7]1>>[C:1](/[C:2](=[N:6]/[H:13])[H:9])([N:4]([C:3]([H:14])([H:15])[H:16])[N:5]([H:10])[H:11])([O:7][H:12])[H:8],23.861942499999746
MR_172654_0,[C:1]([C:4]1([C:2]([H:16])([H:17])[H:18])[C@:3]2([O:8][H:9])[C@@:6]1([H:12])[C@:7]2([N:5]([H:10])[H:11])[H:13])([H:14])([H:15])[H:19]>>[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:6](/[C:3](=[C:7](/[N:5]([H:10])[H:11])[H:13])[O:8][H:9])[H:12])([H:14])([H:15])[H:19],22.411789999987093
MR_225095_0,[C:1]([C:4](=[C:2]([O:6][H:10])[O:7][H:9])[C:3]([N:5]([H:11])[H:12])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:3]([N:5]([H:11])[H:12])[O:8][C:2]1([O:6][H:10])[O:7][H:9])([H:13])([H:14])[H:15],54.66717250001864
MR_595814_1,[N:1]([N:2]([C:4]([O:6][H:8])=[O:7])[H:10])([N:3]([N:5]([H:12])[H:13])[H:11])[H:9]>>[N:1]([N:2]([N:3]([N:5]([H:12])[H:13])[H:11])[H:10])([C:4]([O:6][H:8])=[O:7])[H:9],59.06532000004319
MR_673074_0,[C:1]1([O:8][H:10])([H:9])[C:2]([H:14])([H:15])[C:5]1([C:3]([H:16])([H:17])[H:18])/[C:4](=[N:6]/[H:11])[N:7]([H:12])[H:13]>>[C:1]1([C:5]([C:3]([H:16])([H:17])[H:18])=[C:4]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])([H:9])[C:2]([H:14])([H:15])[O:8]1,62.17018999998004
MR_399649_1,[C:1]([N:4]([O:8][H:9])[H:10])([C:5](=[C:6]([C:2]([H:15])([H:16])[H:18])[C:3]([H:17])([H:19])[H:20])[N:7]([H:11])[H:12])([H:13])[H:14]>>[C:1](=[C:5]([C:6]([C:2]([H:15])([H:16])[H:18])([C:3]([H:17])([H:19])[H:20])[N:4]([O:8][H:9])[H:10])[N:7]([H:11])[H:12])([H:13])[H:14],59.09167500001232
MR_275973_0,[C:1](/[C:2](=[N:5]\[N:3]([H:7])[H:8])[N:6]=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:2]1=[N:6][C:4]([H:12])([H:13])[N:5]1[N:3]([H:7])[H:8])([H:9])([H:10])[H:11],33.408727500044506
MR_451043_2,[C:1]([O:5][N:3](/[C:4]([O:6][H:8])=[N:7]/[C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12]>>[C:1]([O:5][C@@:4]1([O:6][H:8])[N:3]([H:9])[N:7]1[C:2]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12],66.64363749999282
